US06855710B2
(Z)-3-{1-[3-(N-carboxymethyl-N-methyl-aminocarbonyl)-phenyl-amino]-1-phenyl-methylidene}-2-indolinone
Prepared analogously to Example 8 from (Z)-3-{1-[3-(N-ethoxycarbonylmethyl-N-methylaminocarbonyl)-phenylamino]-1-phenyl-methylidene}-2-indolinone and sodium hydroxide solution in ethanol.

reactant | (Z)-3-{1-[3-(N-ethoxycarbonylmethyl-N-methylaminocarbonyl)-phenylamino]-1-phenyl-methylidene}-2-indolinone | C(C)OC(=O)CN(C(=O)C=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O)C | C27H25N3O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | (Z)-3-{1-[3-(N-carboxymethyl-N-methyl-aminocarbonyl)-phenyl-amino]-1-phenyl-methylidene}-2-indolinone | C(=O)(O)CN(C(=O)C=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O)C | C25H21N3O4
